US08835470B2
2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-Va, 60 mg, 0.139 mmol), 1-aminocyclopropanecarbonitrile-HCl (24.74 mg, 0.21 mmol), HATU (68.8 mg, 0.181 mmol), and 4-methylmorpholine (56.3 mg, 0.556 mmol) were dissolved in DMF (1 mL). After stirring 1 h, this was purified by prep HPLC (PHENOMENEX® 21.0×250 mm, gradient elution with Method 1—MeOH/water containing 0.1% trifluoroacetic acid as defined above, 0% B to 100% B over 30 min, 25 mL/min, 220 nM, product retention=29.8 min) to provide single enantiomer N-(1-cyanocyclopropyl)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide (15 mg, 0.028 mmol, 20.46% yield): LCMS=496.1 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.12-8.28 (2 H, m), 7.52-7.79 (7 H, m), 5.16 (1 H, s), 1.42-1.61 (2 H, m), 1.12-1.34 (2 H, m); HPLC peak RT=9.9 min (Method A).

reactant | 2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.139 mmol, 60 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C20H12F3N3O5
reactant | 1-aminocyclopropanecarbonitrile-HCl | 0.21 mmol, 24.74 mg | Cl.NC1(CC1)C#N
reactant | HATU | 0.181 mmol, 68.8 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-methylmorpholine | 0.556 mmol, 56.3 mg | CN1CCOCC1 | C5H11NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(1-cyanocyclopropyl)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide | 0.028 mmol, 15 mg, 20.46% yield | C(#N)C1(CC1)NC(C(C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F)O)=O | C24H16F3N5O4
